US06172085B2
1-[5-(Dipenylmethoxy)pentyl]piperazine
Using 5-(dipenylmethoxy)pentyl chloride and piperazine, the procedure of Reference Example 16 was otherwise repeated to provide the title compound.

reactant | 5-(dipenylmethoxy)pentyl chloride | C1(=CC=CC=C1)C(OCCCCCCl)C1=CC=CC=C1 | C18H21ClO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-[5-(Dipenylmethoxy)pentyl]piperazine | Yield 93% | C1(=CC=CC=C1)C(OCCCCCN1CCNCC1)C1=CC=CC=C1 | C22H30N2O
